US09120749B2
tert-butyl (trans-4-((6-bromo-3-butyrylquinolin-4-yl)amino)cyclohexyl)carbamate
Following general procedure B, 1-(6-bromo-4-chloroquinolin-3-yl)butan-1-one (470 mg, 1.50 mmol) was reacted with tert-butyl (trans-4-aminocyclohexyl)carbamate (643 mg, 3 mmol) to afford the desired product (498 mg, 68%) as a light orange solid. ESI MS m/z 490 [C24H32BrN3O3+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)butan-1-one | 1.50 mmol, 470 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)Cl | C13H11BrClNO
reactant | tert-butyl (trans-4-aminocyclohexyl)carbamate | 3 mmol, 643 mg | N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
product | tert-butyl (trans-4-((6-bromo-3-butyrylquinolin-4-yl)amino)cyclohexyl)carbamate | 498 mg, 68% | BrC=1C=C2C(=C(C=NC2=CC1)C(CCC)=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H32BrN3O3
